US08138206B2
Production of 1′-[4-(3-piperidin-1-ylpropoxy)phenyl]-3H-spiro[2-benzofuran-1,4′-piperidine]
3H-spiro[2-benzofuran-1,4′-piperidine] (131 mg, 0.695 mmol), 1-[3-(4-iodophenoxy)propyl]piperidine (200 mg, 0.58 mmol) prepared in Reference Example (2), sodium tert-butoxide (78 mg, 0.812 mmol), Pd2(dba)3 (5 mg, 0.0058 mmol), 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene (7 mg, 0.0116 mmol) were mixed, and stirred overnight in 1,4-dioxane in a nitrogen atmosphere at 60° C. The reaction solution was filtered under suction through Celite, diluted with ethyl acetate, washed with water and saturated saline in that order, and the organic layer was dried with sodium sulfate. The solvent was evaporated off under reduced pressure, and the resulting residue was purified through preparative thin-layer chromatography (eluate: chloroform/methanol=10/1) to obtain the entitled compound as a colorless solid (60.5 mg, 26%).

reactant | 3H-spiro[2-benzofuran-1,4′-piperidine] | 0.695 mmol, 131 mg | N1CCC2(CC1)OCC1=C2C=CC=C1 | C12H15NO
reactant | 1-[3-(4-iodophenoxy)propyl]piperidine | 0.58 mmol, 200 mg | IC1=CC=C(OCCCN2CCCCC2)C=C1 | C14H20INO
reactant | sodium tert-butoxide | 0.812 mmol, 78 mg | CC(C)([O-])C.[Na+]
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.0058 mmol, 5 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene | 0.0116 mmol, 7 mg | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
product | 1′-[4-(3-piperidin-1-ylpropoxy)phenyl]-3H-spiro[2-benzofuran-1,4′-piperidine] | 60.5 mg, 26% | N1(CCCCC1)CCCOC1=CC=C(C=C1)N1CCC2(CC1)OCC1=C2C=CC=C1 | C26H34N2O2
